US03931155
4'-Dodecyl-2-(2-piperidyl)acetophenone
Magnesium methyl carbonate (0.5 mole 1 M in dimethylformamide) is heated to 120°C. under an atmosphere of carbon dioxide. The compound 4'-dodecylacetophenone, 28.9 g (0.1 mole), is added, and the mixture stirred at 120°C. for 4 hours under a stream of nitrogen, allowing the methanol that forms to escape. The reaction mixture is cooled to room temperature under an atmosphere of carbon dioxide and 10.1 g (0.12 mole) of 2,3,4,5-tetrahydropyridine trimer (α-tripiperidein) is added. The mixture is stirred at room temperature for 66 hours in an atmosphere of carbon dioxide and poured into a solution 800 ml of 2N HCl. The solid is removed by filtration, dissolved in methylene dichloride, dried over anhydrous sodium sulfate and azeotroped with methyl ether until the product precipitates. The 4'-dodecyl-2-(2-piperidyl)acetophenone, when recrystallized as the hydrochloride salt from a methylene dichloride-ethyl ether mixture, is obtained in 80% yield, (32.5 g) and has a M.P. of 126-7°C.

reactant | Magnesium methyl carbonate | 0.5 mole, 1 M | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 4'-dodecylacetophenone | C(CCCCCCCCCCC)C1=CC=C(C=C1)C(C)=O | C20H32O
reactant | 2,3,4,5-tetrahydropyridine | 0.12 mole, 10.1 g | N=1CCCCC1 | C5H9N
reactant | α-tripiperidein | C1CCN2C3CCCCN3C4CCCCN4C2C1 | C15H27N3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 2N, 800 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4'-Dodecyl-2-(2-piperidyl)acetophenone | 80% yield | C(CCCCCCCCCCC)C1=CC=C(C=C1)C(CC1NCCCC1)=O | C25H41NO
